US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol (100 mg, 0.36 mmol) and 4-fluoro-2-methylphenylboronic acid (83 mg, 0.54 mmol) were coupled using the procedure in Example 30 to afford 2-[3-(2,4′-difluoro-2′-methylbiphenyl-5-yl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol (83 mg, 58%) as a white solid: δH (360 MHz, CDCl3) 1.74 (6H, s), 2.04 (1H, s), 2.26 (3H, s), 6.95-7.05 (2H, m), 7.15-7.33 (3H, m), 7.40 (1H, dd, J 7 and 2), 7.51-7.56 (1H, m), 7.69 (1H, s), 8.06 (1H, d, J 7); m/z (ES+) 397 (100%, [MH]+).

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | 0.36 mmol, 100 mg | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 4-fluoro-2-methylphenylboronic acid | 0.54 mmol, 83 mg | FC1=CC(=C(C=C1)B(O)O)C | C7H8BFO2
product | 2-[3-(2,4′-difluoro-2′-methylbiphenyl-5-yl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol | 83 mg, 58% | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)C2=C(C=C(C=C2)F)C | C23H19F3N2O
